US04312812
A solution of 36.2 g of 1α,3β,25-tris(1-ethoxyethoxy)-cholest-5-ene in 0.75 liters of methanol was treated with 5.6 g (29 mmol) of p-toluenesulphonic acid monohydrate, and the mixture was stirred at room temperature for 45 minutes. 1.8 liters of water was dropped into the solution. The suspension was suction filtered, and the residue was washed neutral with water and dried. There was obtained 21.3 g of 1α,3β,25-trihydroxycholest-5-ene which melted at 172°-175° C. after recrystallization from acetone.

reactant | 1α,3β,25-tris(1-ethoxyethoxy)-cholest-5-ene | 36.2 g | C(C)OC(C)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)OC(C)OCC)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)OCC | C39H70O6
reactant | p-toluenesulphonic acid monohydrate | 29 mmol, 5.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 1.8 liters | O | H2O
solvent | methanol | 0.75 liters | CO | CH4O
product | 1α,3β,25-trihydroxycholest-5-ene | 21.3 g | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H46O3
